US05011849
1.5 g (4.33 mmol) of t-butyl [2-(5-amino-4-phenyl-3-isoxazolecarboxamido)ethyl]carbamate in 5 ml of methylene chloride were stirred at room temperature for 16 hours with 1.7 ml of trifluoroacetic acid. Thereafter, the reaction mixture was evaporated under reduced pressure: the residue was dissolved in ethanol, whereupon the solution was treated with 2 ml of ethanolic hydrochloric acid (17.5% w/v) and again evaporated. Recrystallization of the residue from methanol/ether yielded 0.9 g (73.5%) of 5-amino-N-(2-aminoethyl)-4-phenyl-3-isoxazolecarboxamide hydrochloride as white crystals, melting point 187°-189°.

reactant | t-butyl [2-(5-amino-4-phenyl-3-isoxazolecarboxamido)ethyl]carbamate | 4.33 mmol, 1.5 g | NC1=C(C(=NO1)C(=O)NCCNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C17H22N4O4
reactant | trifluoroacetic acid | 1.7 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 5-amino-N-(2-aminoethyl)-4-phenyl-3-isoxazolecarboxamide hydrochloride | 0.9 g, 73.5% | Cl.NC1=C(C(=NO1)C(=O)NCCN)C1=CC=CC=C1 | InChI=1S/C12H14N4O2.ClH/c13-6-7-15-12(17)10-9(11(14)18-16-10)8-4-2-1-3-5-8;/h1-5H,6-7,13-14H2,(H,15,17);1H
